US05102878
(2S)-1-3-(2-phenylpyrazolo1,5-a]pyridin-3-yl)-acryloyl]-2-ethylpiperidine (trans isomer)(2.11 g) was converted to hydrobromic acid salt in a usual manner. The crystals were recrystallized from a mixture of ethyl acetate and acetone to give yellow crystals of (2S)-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine.hydrobromide (trans isomer)(1.75 g).

reactant | 2-ethylpiperidine | 2.11 g | C(C)C1NCCCC1 | C7H15N
reactant | hydrobromic acid | Br | BrH
product | 2-ethylpiperidine.hydrobromide | 1.75 g | Br.C(C)C1NCCCC1 | InChI=1S/C7H15N.BrH/c1-2-7-5-3-4-6-8-7;/h7-8H,2-6H2,1H3;1H
